US09120817B2
B. (3S,11aR)-3-Methyl-6-(methyloxy)-5,7-dioxo-2,3,5,7,11,11a-hexahydro[1,3]oxazolo[3,2-a]pyrido[1,2-d]pyrazine-8-carboxylic acid
1-[2,2-bis(methyloxy)ethyl]-5-(methyloxy)-6-[(methyloxy)carbonyl]-4-oxo-1,4-dihydro-3-pyridinecarboxylic acid (22.54 g) was dissolved in 220 mL of CH3CN. HOAc (20 mL) and CH3SO3H (1.4 mL) were added at room temperature and the mixture was heated to 58-65° C. for 19.5 h. Alaninol (7.511 g) in CH3CN (15 mL) was added slowly and the resultant mixture was stirred at 64° C. for 18.5 h. The mixture was concentrated, and the residue was redissolved in CH2Cl2 (170 mL). HCl (1 N, 170 mL) was added and the layers were separated. The aqueous layer was extracted with CH2Cl2 (170 mL×2) and the organic layers were combined and concentrated. MeOH (50 mL) was added and the resultant mixture was again concentrated. MeOH (80 mL) was added and the resultant mixture was heated at reflux for 4 h, gradually cooled to 20° C. and held at 20° C. for 15 h. The product was collected by filtration and dried under vacuum.

reactant | 1-[2,2-bis(methyloxy)ethyl]-5-(methyloxy)-6-[(methyloxy)carbonyl]-4-oxo-1,4-dihydro-3-pyridinecarboxylic acid | 22.54 g | COC(CN1C=C(C(C(=C1C(=O)OC)OC)=O)C(=O)O)OC | C13H17NO8
reactant | HOAc | 20 mL | CC(=O)O | C2H4O2
reactant | CH3SO3H | 1.4 mL | CS(=O)(=O)O | CH4O3S
reactant | Alaninol | 7.511 g | N[C@@H](C)CO | C3H9NO
solvent | CH3CN | 220 mL | CC#N | C2H3N
solvent | CH3CN | 15 mL | CC#N | C2H3N
product | (3S,11aR)-3-Methyl-6-(methyloxy)-5,7-dioxo-2,3,5,7,11,11a-hexahydro[1,3]oxazolo[3,2-a]pyrido[1,2-d]pyrazine-8-carboxylic acid | C[C@H]1CO[C@H]2N1C(C=1N(C2)C=C(C(C1OC)=O)C(=O)O)=O | C13H14N2O6
